US09120749B2
(4-(6-(4-aminopiperidin-1-yl)pyridin-3-ylamino)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl)(cyclopropyl)methanone
Following general procedure D, tert-butyl 1-(5-(6-bromo-3-(cyclopropanecarbonyl)quinoline-4-ylamino)pyridin-2-yl)piperidin-4-ylcarbamate (100 mg, 0.18 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (78 mg, 0.27 mmol) to obtain the protected intermediate which was subjected to general procedure A-2 to afford the desired product (52 mg, 53% over 2 steps) as a red solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.37 (s, 1H), 8.21 (m, 3H), 8.02 (d, J=8.8 Hz, 1H), 7.72 (dd, J=9.3, 2.9 Hz, 1H), 7.36 (s, 2H), 7.18 (d, J=9.2 Hz, 1H), 4.52 (d, J=13.2 Hz, 2H), 3.44 (m, 1H), 3.14 (t, J=11.8 Hz, 2H), 2.83 (m, 1H), 2.15 (d, J=11.5 Hz, 2H), 1.69 (dd, J=24.5, 7.9 Hz, 2H), 1.21 (m, 4H); ESI MS m/z 548 [C29H27Cl2N5O2+H]+; HPLC 99.0% (AUC), tR=10.73 min.

reactant | tert-butyl 1-(5-(6-bromo-3-(cyclopropanecarbonyl)quinoline-4-ylamino)pyridin-2-yl)piperidin-4-ylcarbamate | 0.18 mmol, 100 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=CC(=NC1)N1CCC(CC1)NC(OC(C)(C)C)=O | C28H32BrN5O3
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.27 mmol, 78 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | (4-(6-(4-aminopiperidin-1-yl)pyridin-3-ylamino)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl)(cyclopropyl)methanone | 52 mg, 53% | NC1CCN(CC1)C1=CC=C(C=N1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)Cl)O)Cl)C(=O)C1CC1 | C29H27Cl2N5O2
